US09216993B2
To a stirred solution of 55 mg of (S)-1-(2,3-bis((tert-butyldimethylsilyl)oxy)propyl)-5-methyl-1H-indole-2-carbonitrile (0.12 mmol) in carbon tetrachloride (0.5 mL) was added 21.3 mg of N-bromosuccinimide (0.12 mmol) and 1.1 mg of AIBN (0.0065 mmol). The mixture was refluxed for 1 h, then cooled, concentrated and filtered through short silica gel plug using hexane-ethyl acetate 10:1 to give 58 mg of crude (S)-1-(2,3-bis((tert-butyldimethylsilyl)oxy)propyl)-5-(bromomethyl)-1H-indole-2-carbonitrile that was used in the next step without further purification.

reactant | (S)-1-(2,3-bis((tert-butyldimethylsilyl)oxy)propyl)-5-methyl-1H-indole-2-carbonitrile | 0.12 mmol, 55 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CN1C(=CC2=CC(=CC=C12)C)C#N)CO[Si](C)(C)C(C)(C)C | C25H42N2O2Si2
reactant | N-bromosuccinimide | 0.12 mmol, 21.3 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 0.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.0065 mmol, 1.1 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | (S)-1-(2,3-bis((tert-butyldimethylsilyl)oxy)propyl)-5-(bromomethyl)-1H-indole-2-carbonitrile | 58 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CN1C(=CC2=CC(=CC=C12)CBr)C#N)CO[Si](C)(C)C(C)(C)C | C25H41BrN2O2Si2
